US09120728B2
1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene
A mixture of 3-fluoro-5-methylsulfonyl-phenol (4.2 g, 22.08 mmol), 1.2-dibromoethane (24 ml, 27.7 mmol) and potassium carbonate (6.1 g, 44.2 mmol) in acetonitrile (36 ml) was divided into 6 aliquots which were each heated under microwave radiation at 120° C. for 30 min. The reaction mixtures were cooled to room temperature, filtrated and pooled. The volatiles were evaporated, aqueous sodium carbonate (100 ml, 10%) was added and the mixture was extracted with ethyl acetate (2×100 ml). The combined organic phase was washed with brine (75 ml), dried (Na2SO4) and evaporated. Purification by flash column chromatography (ethyl acetate/isooctane, 0:1 to 1:0) gave the title compound (4.77 g, 73%). MS m/z (relative intensity, 70 eV 298 (M+, 18), 296 (M+, 18), 109 (bp), 107 (99), 82 (15).

reactant | 3-fluoro-5-methylsulfonyl-phenol | 22.08 mmol, 4.2 g | FC=1C=C(C=C(C1)S(=O)(=O)C)O | C7H7FO3S
reactant | 1.2-dibromoethane | 27.7 mmol, 24 ml | BrCCBr | C2H4Br2
reactant | potassium carbonate | 44.2 mmol, 6.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 36 ml | C(C)#N | C2H3N
product | 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene | 4.77 g, 73% | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C9H10BrFO3S
